US06548495B2
(RS)-[5-Morpholin-4-yl-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-3-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic Acid tert.-Butyl Ester
The title compound was prepared from (2-amino-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J1) and (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-3-yl]-phenyl}-propionic acid tert.-butyl ester (Example K11) according to the general procedure M. Obtained as a light yellow foam (774 mg).

reactant | (2-amino-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C(F)(F)F)N)=O | C16H22F3N3O3
reactant | (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-3-yl]-phenyl}-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NOC(=C1)COC1OCCCC1)=O)=O | C22H27NO6
product | (RS)-[5-Morpholin-4-yl-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-3-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=NOC(=C1)COC1OCCCC1)=O)=O)=O | C34H39F3N4O8
